US07943748B2
(3) Synthesis of 4-Bromonaphthalene-2-carbaldehyde
Under a nitrogen atmosphere, an oxalyl chloride methylene chloride solution (2.0 M, 4.88 ml) was diluted with methylene chloride (40 ml), and dimethyl sulfoxide (0.9 ml, 12.7 mmol) was added dropwise thereto at −78° C. To this solution, a solution of (4-bromonaphthalene-2-yl)-methanol (1.15 g, 4.88 mmol) as synthesized according to a document [J. Med. Chem., 37, 2485 (1993)] in methylene chloride (10 ml) was added dropwise over 10 minutes. This reaction mixture was stirred at −78° C. for 15 minutes and −45° C. for one hour, and then triethylamine (4.0 ml, 29.3 mmol) was added dropwise thereto and stirred at 0° C. for 30 minutes. To the reaction solution, a saturated ammonium chloride aqueous solution was added and the resulting solution was extracted with methylene chloride. The organic layer was washed with water and a saturated sodium chloride aqueous solution, and dried with sodium sulfate. After filtration, the solvent was distilled under reduced pressure, and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:20)] to obtain the title compound (890 mg, 78%).

reactant | oxalyl chloride methylene chloride | 2.0 M, 4.88 ml | C(Cl)Cl.C(C(=O)Cl)(=O)Cl
reactant | dimethyl sulfoxide | 12.7 mmol, 0.9 ml | CS(=O)C | C2H6OS
reactant | (4-bromonaphthalene-2-yl)-methanol | 4.88 mmol, 1.15 g | BrC1=CC(=CC2=CC=CC=C12)CO | C11H9BrO
reactant | triethylamine | 29.3 mmol, 4.0 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-Bromonaphthalene-2-carbaldehyde | 890 mg, 78% | BrC1=CC(=CC2=CC=CC=C12)C=O | C11H7BrO
